US06433211B1
A mixture containing m-cyanobenzylamine (13.2 g), acetonitrile (80 g), sodium hydrogencarbonate (76 g), water (500 g), sodium persulfate (95 g), and iron oxide (0.25 g) was stirred for reaction at 80° C. over ten hours. After the precipitated solid was removed through filtration, the pH of the filtrate was adjusted to 4 through addition of sulfuric acid. The precipitated crystals were collected through filtration, washed with water, dried, to thereby obtain 7.1 g of m-cyanobenzoic acid (yield 48%, based on m-cyano-benzylamine). The m-cyanobenzoic acid obtained had a purity of 94%.

reactant | m-cyanobenzylamine | 13.2 g | C(#N)C=1C=C(CN)C=CC1 | C8H8N2
reactant | acetonitrile | 80 g | C(C)#N | C2H3N
reactant | sodium hydrogencarbonate | 76 g | C(O)([O-])=O.[Na+]
reactant | sodium persulfate | 95 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
catalyst | iron oxide | 0.25 g | [O-2].[Fe+2]
solvent | water | 500 g | O | H2O
product | m-cyanobenzoic acid | 7.1 g, yield 48% | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
